US07728030B2
N-[(1R,2S)-1-[1-(4-fluorophenyl)indazol-5-yl]oxy-1-phenyl-propan-2-yl]-2-hydroxy-2-methyl-propanamide
To a stirred solution of (1S,2R)-1-{[1-(4-fluorophenyl)-1H-indazol-5-yl]oxy}-1-phenylpropan-2-amine (18 mg, 50 μmol) in dichloromethane (2 ml) was added triethylamine (100 μl), followed by 2-chloro-1,1-dimethyl-2-oxoethyl acetate (24 mg, 150 μmol). The stirring was continued for 20 min at r.t., then the solvent was removed under reduced pressure, and the residue dissolved in ethanol (1 ml). Aqueous sodium hydroxide solution (1 M, 1 ml) was added, and the mixture was stirrer at 80° C. for 30 min. Then it was cooled to r.t., acidified with TFA, and concentrated under reduced pressure. The product was purified by semi-prep. HPLC. Yield 22 mg (96%).

reactant | (1S,2R)-1-{[1-(4-fluorophenyl)-1H-indazol-5-yl]oxy}-1-phenylpropan-2-amine | 50 μmol, 18 mg | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)O[C@H]([C@@H](C)N)C1=CC=CC=C1 | C22H20FN3O
reactant | triethylamine | 100 μl | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-1,1-dimethyl-2-oxoethyl acetate | 150 μmol, 24 mg | C(C)(=O)OC(C(=O)Cl)(C)C | C6H9ClO3
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | N-[(1R,2S)-1-[1-(4-fluorophenyl)indazol-5-yl]oxy-1-phenyl-propan-2-yl]-2-hydroxy-2-methyl-propanamide | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)O[C@@H]([C@H](C)NC(C(C)(C)O)=O)C1=CC=CC=C1 | C26H26FN3O3
